US07452911B2
(2-{5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-indol-1-yl}-ethyl)-cyclopropylmethyl-amine
0.46 mL (5.4 mmol) C-cyclopropyl-methylamine are added to a solution of 2.03 g (4.5 mmol) 2-{5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-indol-1-yl}-ethyl methanesulphonate in 20 mL DMF and the reaction mixture is stirred for 4 h at 60° C. The mixture is evaporated down i.vac., the residue is stirred with DCM, the precipitate is suction filtered and dried in the air. The product is precipitated as the methanesulphonic acid salt.

reactant | C-cyclopropyl-methylamine | 5.4 mmol, 0.46 mL | C1(CC1)CN | C4H9N
reactant | 2-{5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-indol-1-yl}-ethyl methanesulphonate | 4.5 mmol, 2.03 g | CS(=O)(=O)OCCN1C=CC2=CC(=CC=C12)C#CC1=NC=C(C=C1)C1=CC=C(C=C1)Cl | C24H19ClN2O3S
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (2-{5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-indol-1-yl}-ethyl)-cyclopropylmethyl-amine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=C2C=CN(C2=CC1)CCNCC1CC1 | C27H24ClN3
